US04851519
A solution of 4.08 g of 2'-deoxy-5-ethylcytidine in 200 ml of ethanol was stirred and heated under reflux. 3.94 g of benzoic anhydride were added and additional portions, each of 3.94 g, of benzoic anhydride were added after 1, 2 and 4 hours. The mixture was heated under reflux for an additional 1 hour after the final addition and was then evaporated to dryness. The residue was suspended in 250 ml of diethyl ether and stored at room temperature overnight. The solid was collected by filtration and washed with 75 ml of diethyl ether to give 4.5 g of 4-N-benzoyl-2'-deoxy-5-ethylcytidine in the form of a white solid of melting point 172°-174° C.

reactant | 2'-deoxy-5-ethylcytidine | 4.08 g | C(C)C=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)N | C11H17N3O4
reactant | benzoic anhydride | 3.94 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-N-benzoyl-2'-deoxy-5-ethylcytidine | 4.5 g | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1CC)=O | C18H21N3O5
